US09278938B2
6-(Hydroxy(1-(phenylsulfonyl)-1H-imidazol-4-yl)methyl)-N-methyl-2-naphthamide (8.8 g, 20.88 mmol) and manganese dioxide (16.4 g, 187.9 mmol) were added to N,N-dimethylacetamide (75 mL), and the mixture was stirred at 60° C. for 9.5 hr. The insoluble material was filtered off from the reaction mixture at 60° C., and washed with DMAc (35 mL). The filtrate and washing were combined, and cooled to 40° C., water (53 mL) was added dropwise thereto, and the mixture was stirred at the same temperature for 0.5 hr or more, and then at room temperature for 1 hr or more to give crystals. The obtained crystals were collected by filtration, and washed with water (44 mL) to give wet crystals. The obtained wet crystals were dried under reduced pressure at an outside temperature of 50° C. to give crude crystals (6.3 g). Ethyl acetate (63 mL) was warmed to 40° C., and the crude crystals (6.3 g) were added thereto. The obtained mixture was warmed to 50° C., and stirred for 0.5 hr or more. 13 mL of the solvent was evaporated under reduced pressure to give a residue. The obtained residue was allowed to cool to room temperature, diisopropyl ether (53 mL) was added dropwise thereto at the same temperature, and the mixture was stirred to give crystals. The obtained crystals were collected by filtration, and washed with a mixed solvent (20 mL) of diisopropyl ether/ethyl acetate (1:1, volume ratio) to give wet crystals. The obtained wet crystals were dried under reduced pressure at an outside temperature of 50° C. to give N-methyl-6-[(1-(phenylsulfonyl)-1H-imidazol-4-yl)carbonyl]-2-naphthamide (6.2 g, 14.9 mmol). yield 72%.

reactant | 6-(Hydroxy(1-(phenylsulfonyl)-1H-imidazol-4-yl)methyl)-N-methyl-2-naphthamide | 20.88 mmol, 8.8 g | OC(C=1C=C2C=CC(=CC2=CC1)C(=O)NC)C=1N=CN(C1)S(=O)(=O)C1=CC=CC=C1 | C22H19N3O4S
reactant | N,N-dimethylacetamide | 75 mL | CN(C(C)=O)C | C4H9NO
reactant | diisopropyl ether | 53 mL | C(C)(C)OC(C)C | C6H14O
catalyst | manganese dioxide | 187.9 mmol, 16.4 g | [O-2].[O-2].[Mn+4]
solvent | Ethyl acetate | 63 mL | C(C)(=O)OCC | C4H8O2
product | N-methyl-6-[(1-(phenylsulfonyl)-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 14.9 mmol, 6.2 g, yield 72% | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)S(=O)(=O)C1=CC=CC=C1 | C22H17N3O4S
